US04055596
Preparation of 7-{N-[4-hydroxy-5-(4-fluorophenoxy)-2-pentynyl]methanesulfonamido}heptanoic Acid
This compound is prepared by the procedure described in Example 2, Step I, except that N-[4-acetoxy-5-(4-fluorophenoxy)-2-pentynyl]methanesulfonamide is substituted for the N-[4-acetoxy-5-(4-fluorophenoxy)pentyl]methanesulfonamide and ethyl 7-bromoheptanoate is substituted for ethyl 7-bromo-5-heptynoate. The product is thus ethyl 7-{N-[4-acetoxy-5-(4-fluorophenoxy)-2-pentynyl]methanesulfonamido}heptanoate. The subsequent hydrolysis (Example 2, Step J) affords the subject compound.

reactant | N-[4-acetoxy-5-(4-fluorophenoxy)-2-pentynyl]methanesulfonamide | C(C)(=O)OC(C#CCNS(=O)(=O)C)COC1=CC=C(C=C1)F | C14H16FNO5S
reactant | N-[4-acetoxy-5-(4-fluorophenoxy)pentyl]methanesulfonamide | C(C)(=O)OC(CCCNS(=O)(=O)C)COC1=CC=C(C=C1)F | C14H20FNO5S
reactant | ethyl 7-bromoheptanoate | BrCCCCCCC(=O)OCC | C9H17BrO2
reactant | ethyl 7-bromo-5-heptynoate | BrCC#CCCCC(=O)OCC | C9H13BrO2
reactant | ethyl 7-{N-[4-acetoxy-5-(4-fluorophenoxy)-2-pentynyl]methanesulfonamido}heptanoate | C(C)(=O)OC(C#CCN(S(=O)(=O)C)CCCCCCC(=O)OCC)COC1=CC=C(C=C1)F | C23H32FNO7S
product | 7-{N-[4-hydroxy-5-(4-fluorophenoxy)-2-pentynyl]methanesulfonamido}heptanoic Acid | OC(C#CCN(S(=O)(=O)C)CCCCCCC(=O)O)COC1=CC=C(C=C1)F | C19H26FNO6S
